US07728142B2
3-Methanesulfonyl-2-methyl-4-phenyl-6-trifluoromethoxy-quinoline
(2-Amino-5-trifluoromethoxy-phenyl)-phenyl-methanone (0.3 g, 1 mmol), methylsulfonylacetone (0.22 g, 2 mmol) and sodium tetrachloroaurate (III) dihydrate (13 mg, 0.036 mmol) were mixed in 2-propanol (3 mL) and heated at reflux under nitrogen for 5 days. 2-propanol was evaporated and the residue was purified by flash chromatography on silica gel in heptane/ethyl acetate 2:1. One obtained 154 mg (34%) of a white solid. MS: m/z=382 (M+H).

reactant | (2-Amino-5-trifluoromethoxy-phenyl)-phenyl-methanone | 1 mmol, 0.3 g | NC1=C(C=C(C=C1)OC(F)(F)F)C(=O)C1=CC=CC=C1 | C14H10F3NO2
reactant | methylsulfonylacetone | 2 mmol, 0.22 g | CS(=O)(=O)CC(C)=O | C4H8O3S
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
catalyst | sodium tetrachloroaurate (III) dihydrate | 0.036 mmol, 13 mg | O.O.[Na+].Cl[Au-](Cl)(Cl)Cl
product | 3-Methanesulfonyl-2-methyl-4-phenyl-6-trifluoromethoxy-quinoline | 154 mg, 34% | CS(=O)(=O)C=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)OC(F)(F)F)C | C18H14F3NO3S
